US07425568B2
c) 2,5-Bis(benzyloxy)phenol
A solution of acetic acid 2,5-bis(benzyloxy)phenyl ester (1.85 g) and 5M sodium hydroxide solution (10.6 ml) in ethanol (11 ml) was heated under reflux for 6.5 hrs. After ethanol was evaporated under reduced pressure the clear solution was made acidic with diluted hydrochloric acid. The precipitated product was collected by filtration, washed with cold water and dried under reduced pressure. Yield is 0.56 g. 1H NMR (DMSO-d6) δ=4.97 (s, 2H), 5.01 (s, 2H), 6.34 (dd, J=3.1, 8.8 Hz, 1H), 6.49(d, J=3.1 Hz, 1H), 6.85 (d, J=8.8 Hz, 1H), 7.28-7.46 (m, 10H), 9.1 (br s, 1H).

reactant | acetic acid 2,5-bis(benzyloxy)phenyl ester | 1.85 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)OC(C)=O | C22H20O4
reactant | sodium hydroxide | 5M, 10.6 ml | [OH-].[Na+]
solvent | ethanol | 11 ml | C(C)O | C2H6O
product | 2,5-Bis(benzyloxy)phenol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)O | C20H18O3
